Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Darvon / Gabapentin / Mucinex / Robitussin / 
Lyrica / Lipitor / Oxycontin / Codeine
 
Attending: ___.
 
Chief Complaint:
abdominal pain, nausea, vomiting, diarrhea

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ year old woman s/p repeat renal
transplant recently discharged 5 days ago on ___ who returns
with complaints of abdominal pain, nausea, vomiting and diarrhea
since this morning.

The patient reports she was doing well since discharge up until
this morning when she woke up with acute abdominal pain, and had
severe diarrhea with associated nausea and vomiting. Her emesis
has just been food stuff and her diarrhea has been mostly yellow
fluid. Here in the ED after getting morphine and zofran, her 
pain
is currently rated ___ and her nausea resolved. Her Cr today is
1.7 which is elevated from her discharge Cr of 1.3.

She ___ fevers or chills and says that her urine output has
continued to be excellent. Her urine has been clear and yellow.

 
Past Medical History:
# ESRD due to chronic GN s/p living related kidney tx
# hypercholesterolemia
# s/p R AVG
___ renal transplant
 
Social History:
___
Family History:
NC
 
Physical Exam:
 98.1, HR 99, BP 113/62, RR 20, O2Sat 100%RA
GEN - NAD, A&Ox3, appears uncomfortable
HEENT - EOMI, MMM, no scleral icterus
___ - RRR
PULM - CTAB, no W/R/R
ABD - soft, diffusely tender but worst over superior part of
incision, no rebound/guarding; incision clean, dry and intact
with staples in place; no erythema, induration, or abnormal
drainage
EXTREM - warm/dry

 
Pertinent Results:
On Admission: WBC-12.1* RBC-3.07* Hgb-9.2* Hct-27.9* MCV-91 
MCH-29.8 MCHC-32.7 RDW-18.4* Plt ___ PTT-22.8 ___
Glucose-100 UreaN-22* Creat-1.7* Na-136 K-4.7 Cl-110* HCO3-17* 
AnGap-___ y/o female who was transplanted on ___ who now returns 
with GI symptoms.
She underwent a renal transplant ultrasound which showed:
- New perinephric fluid collection when compared to the prior 
study of ___. Otherwise, normal-appearing transplanted kidney with no 
evidence of 
hydronephrosis. 
- Appropriate renal arterial waveforms with normal resistive 
indices with no 
evidence of parvus tardus waveform as seen on the prior study. 
Patent renal 
vein. 
Her cellcept was decreased to 500 BID and by the following day 
her symptoms were much improved, the diarrhea had stopped, she 
was able to tolerate diet so she was discharged to home with ___ 
for continued med teaching.
She will follow up later in the week with the transplant clinic 
and have labs at that time
 
Medications on Admission:
Bactrim SS 1tab daily
Nystatin 100,000U/ml suspension, 5cc PO QID
Colace 100mg PO BID
Valganciclovir 450mg PO daily
Ipratropium-Albuterol ___ mcg/Actuation Aerosol Sig: ___ 
Puffs Inhalation Q6H (every 6 hours) as needed for SOB.  
Isosorbide Mononitrate SR 30mg PO daily
Dilaudid ___ PO q3hrs prn pain
Cellcept 1000mg PO BID
Hydralazine 50mg PO TID
Clonazepam 0.5mg PO qhs prn anxiety
Oxazepam 15mg PO qhs prn anxiety
Metoprolol 25mg PO TID
Clonidine 0.1mg PO TID
Tacrolimus 5mg PO BID
Famotidine 20mg PO daily

 
Discharge Medications:
1. Sulfamethoxazole-Trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
2. Nystatin 100,000 unit/mL Suspension Sig: Five (5) ML PO QID 
(4 times a day) as needed for thrush.  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Valganciclovir 450 mg Tablet Sig: One (1) Tablet PO EVERY 
OTHER DAY (Every Other Day).  
5. Ipratropium-Albuterol ___ mcg/Actuation Aerosol Sig: ___ 
Puffs Inhalation Q6H (every 6 hours) as needed for SOB, wheeze.  

6. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
7. Mycophenolate Mofetil 500 mg Tablet Sig: One (1) Tablet PO 
BID (2 times a day).  
8. Hydralazine 50 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
9. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)) as needed for anxiety.  
10. Oxazepam 15 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime) as needed for anxiety.  
11. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).  
12. Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).  
13. Tacrolimus 5 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).  
14. Clonidine 0.1 mg Tablet Sig: One (1) Tablet PO three times a 
day.
Disp:*90 Tablet(s)* Refills:*2*
15. Dilaudid 2 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Abdominal pain: resolved
s/p kidney transplant ___

Abdominal pain: resolved
s/p kidney transplant ___

 
Discharge Condition:
Stable
A+Ox3
Ambulatory

 
Discharge Instructions:
Please call the transplant clinic at ___ for fever, 
chills, nausea, vomiting, diarrhea, constipation, increased 
abdominal pain or pain over the kidney, inability to take or 
keep down food, fluids or medications.
Drink enough fluids to keep urine light yellow in color.
Weigh yourself daily, report gain or loss of more than 3 pounds 
within a day.
Continue labwork every ___ and ___ with results to the 
transplant clinic
No heavy lifting
No driving if taking narcotic pain medication
You may shower. Allow water to run over incision and pat dry. 
___ leave incision open to the air
No tub baths or swimming until further notice
 
Followup Instructions:
___